US04824833
A mixture of 12.0 g of 3-phenylpropionic acid, 25 ml of thionylchloride and 8 ml of carbon tetrachloride are heated at 70° C. for 45 minutes. Then, 10.7 g of N-bromosuccinimide, 40 ml of carbon tetrachloride and 6 drops of 48% hydrobromic acid are further added thereto, and the mixture is heated for 1 hour. After cooling, insoluble materials are filtered off, and the filtrate is condensed to dryness. The residue is dissolved in 20 ml of tetrahydrofuran, and the mixture is added dropwise to 120 ml of a tetrahydrofuran solution containing 12.3 g of 2-amino-4-nitrophenol and 14.5 g of N,N-dimethylaniline under ice cooling. After stirring at room temperature for 40 minutes, the mixture is evaporated to remove the solvent. Water is added to the residue, and the mixture is extracted with ethyl acetate, dried and evaporated to remove the solvent. Then, the residue is dissolved in 200 ml of acetone. 41.4 g of potassium carbonate are added thereto, and the mixture is refluxed for 1 hour. After cooling, the reaction mixture is poured into water. Crystalline precipitates are collected by filtration, washed with water, dried and recrystallised from a mixture of ethyl acetate and n-hexane to give 12.25 g of 2-benzyl-6-nitro-3-oxo-1,4-benzoxazine.

reactant | 3-phenylpropionic acid | 12.0 g | C1(=CC=CC=C1)CCC(=O)O | C9H10O2
reactant | thionylchloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
reactant | N-bromosuccinimide | 10.7 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2-amino-4-nitrophenol | 12.3 g | NC1=C(C=CC(=C1)[N+](=O)[O-])O | C6H6N2O3
reactant | N,N-dimethylaniline | 14.5 g | CN(C1=CC=CC=C1)C | C8H11N
catalyst | hydrobromic acid | 6 drops | Br | BrH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 120 ml | O1CCCC1 | C4H8O
solvent | carbon tetrachloride | 40 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | carbon tetrachloride | 8 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-benzyl-6-nitro-3-oxo-1,4-benzoxazine | 12.25 g, Yield 54% | C(C1=CC=CC=C1)C1OC2=C(NC1=O)C=C(C=C2)[N+](=O)[O-] | C15H12N2O4
